US05633251
Step D: Preparation of (2R)-2-Amino-3-phenyl-N-[2,3-dihydro-1-(2-propyl)-2-oxo-5-phenyl-1H-benzo[e][1,4]diazepin-3-yl]propionamide
To a stirring solution of (+)-3-amino-2,3-dihydro-1-(2-propyl)-2-oxo-5-phenyl-1H-1,4-benzodiazepine (40.8 g, 139 mmol) in dimethylformamide (140 mL) was added EDC (32.0 g, 167 mmol), HOBT (22.6 g, 167 mmol) and N-BOC-D-phenylalanine (44.3 g, 167 mmol). This was stirred at ambient temperature for 2 h. The reaction was diluted with saturated aqueous sodium hydrogen carbonate (1.5 L) and extracted with ethyl acetate (3×1 L). The organic layers were combined, dried with brine, anhydrous magnesium sulfate, filtered, and evaporated under reduced pressure to give a yellow oil which was dissolved in ethyl acetate (700 mL), cooled in an ice/water bath. Hydrogen chloride gas was bubbled into the solution for 3 h. The reaction mixture was concentrated under reduced pressure and the resulting foam was dissolved in ethyl acetate (1 L) and saturated aqueous sodium hydrogen carbonate (1 L). The layers were separated and the aqueous layer was extracted with ethyl acetate again (2×1 L). The organic layers were combined, dried with brine, anhydrous magnesium sulfate, filtered, and evaporated under reduced pressure to give a white solid, which was chromatographed over silica (2.5 kg) with ethyl acetate. The faster running diastereomer was recovered as a white solid (22.0 g, 72%). 1H NMR, CDCl3, δ 9.02 (d, J=8.6 Hz, 1H), 7.64-7.25 (m, 14H), 5.50 (d, J=8.6 Hz, 1H), 4.54 (septet, J=7.0 Hz, 1H), 3.70 (dd, J=3.9, 9.8 Hz, 1H), 3.34 (dd, J=3.9, 13.8 Hz, 1H), 2.82 (dd, J=9.8, 13.8 Hz, 1H), 1.51-1.40 (m, 5H), 1.27 (d, J=7.0 Hz, 1H).

reactant | (+)-3-amino-2,3-dihydro-1-(2-propyl)-2-oxo-5-phenyl-1H-1,4-benzodiazepine | 139 mmol, 40.8 g | NC1C(N(C2=C(C(=N1)C1=CC=CC=C1)C=CC=C2)C(C)C)=O | C18H19N3O
reactant | EDC | 167 mmol, 32.0 g
reactant | HOBT | 167 mmol, 22.6 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | N-BOC-D-phenylalanine | 167 mmol, 44.3 g | C(=O)(OC(C)(C)C)N[C@H](CC1=CC=CC=C1)C(=O)O | C14H19NO4
solvent | dimethylformamide | 140 mL | CN(C=O)C | C3H7NO
solvent | sodium hydrogen carbonate | 1.5 L | C(O)([O-])=O.[Na+]
solvent | ethyl acetate | 700 mL | C(C)(=O)OCC | C4H8O2
product | (2R)-2-Amino-3-phenyl-N-[2,3-dihydro-1-(2-propyl)-2-oxo-5-phenyl-1H-benzo[e][1,4]diazepin-3-yl]propionamide | N[C@@H](C(=O)NC1N=C(C2=C(N(C1=O)C(C)C)C=CC=C2)C2=CC=CC=C2)CC2=CC=CC=C2 | C27H28N4O2
